US09233974B2
A mixture of (2S)-1-tert-butyl 2-methyl 4-ethylpyrrolidine-1,2-dicarboxylate (49.5 g, 0.19 mol), LiOH (950 mL, 1M) in MeOH (1500 mL) was stirred at room temperature overnight. TLC showed the reaction was completed. The mixture was concentrated, adjusted the pH to 2 with 1N HCl. The mixture was extracted with EA, the combined organic layer was washed with brine, dried over Na2SO4, concentrated to afford (2S)-1-(tert-butoxycarbonyl)-4-ethylpyrrolidine-2-carboxylic acid (45.5 g, 97%) as white solid without further purification.

reactant | (2S)-1-tert-butyl 2-methyl 4-ethylpyrrolidine-1,2-dicarboxylate | 0.19 mol, 49.5 g | C(C)C1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)OC | C13H23NO4
reactant | LiOH | 1M, 950 mL | [Li+].[OH-]
solvent | MeOH | 1500 mL | CO | CH4O
product | (2S)-1-(tert-butoxycarbonyl)-4-ethylpyrrolidine-2-carboxylic acid | 45.5 g, 97% | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)CC)C(=O)O | C12H21NO4
